* D:\Daten\GitHub\pro4e\Workspace\Julian Jeisy\Recherche\Mikrophonverstärker\mikrophonverstärker.wxsch
*#SIMETRIX
X1 VCC/2 X1_inn VCC 0 R8_P LMV796 pinnames: inp inn vsp vsn out
V1 3V3 0 3.3
X2 VCC/2 X2_inn VCC 0 C2_P LMV796 pinnames: inp inn vsp vsn out
V2 VCC 0 5
R1 VCC R1_N 5.6k
V3 V3_P 0 100u AC 1 0 Sin(0 360u 10k 0 0)
R2 C2_P X2_inn 68k
R3 VCC VCC/2 100k
R4 VCC/2 0 100k
R5 R6_N 0 100k
R6 3V3 R6_N 100k
R7 X1_inn C4_P 4.7k
R8 R8_P X1_inn 330k
I1 R1_N 0 160n AC 160n 0 Sin(0 160n 1k 0 0)
C1 R1_N X2_inn 1u   
C2 C2_P X2_inn 100p   
C3 VCC/2 0 2.2u   
C4 C4_P C2_P 1u   
C5 R6_N R8_P 1u   
.GRAPH R6_N axisType="owngrid" persistence=-1 curveLabel="VOUT" analysis="tran|ac|dc" xLog="lin" yLog="lin" yMin=0 yMax=3.5  nowarn=true disabled=false PROBEREF=Probe1  
.GRAPH C1#P axisType="auto" persistence=-1 curveLabel="Iin" analysis="tran|ac|dc" xLog="auto" yLog="lin"  nowarn=true disabled=false 
.GRAPH C2_P axisType="owngrid" persistence=-1 curveLabel="op1" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe3  
.GRAPH R8_P axisType="owngrid" persistence=-1 curveLabel="op2" analysis="tran|ac|dc" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe4  
.tran 3m
.ac dec 100 1 500k
*.tf freq dec 25 1k 1000000 V=VOUT VN=VIN

